US04067720
51.7 g of trichlorovinyl isocyanate were added dropwise to a solution of 21.9 g of 3-hydroxy-5-ethoxy-1,2,4-thiadiazole in 300 ml of benzene and after stirring the mixture for 16 hours at 20° C, the mixture was filtered. The filtrate was evaporated to dryness and the product was eluted with 7-3 benzene-ethyl acetate mixture and crystallized from isopropyl ether to obtain 22 g of 2-(N-trichlorovinylcarbamoyl)-5-ethoxy-1,2,4-thiadiazole-3-one melting at 123° C.

reactant | trichlorovinyl isocyanate | 51.7 g | ClC(=C(Cl)Cl)N=C=O | C3Cl3NO
reactant | 3-hydroxy-5-ethoxy-1,2,4-thiadiazole | 21.9 g | OC1=NSC(=N1)OCC | C4H6N2O2S
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | 2-(N-trichlorovinylcarbamoyl)-5-ethoxy-1,2,4-thiadiazole-3-one | 22 g | ClC(=C(Cl)Cl)NC(=O)N1SC(=NC1=O)OCC | C7H6Cl3N3O3S
